* C:\Users\91766\Desktop\sky130\LVDI\LVDI\LVDI.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 10/08/22 13:21:48

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
SC3  Net-_SC2-Pad1_ Net-_SC11-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8		
SC7  Net-_SC4-Pad2_ Net-_SC10-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8		
SC10  Net-_SC10-Pad1_ Net-_SC10-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8		
SC13  Net-_SC11-Pad1_ Net-_SC11-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8		
SC2  Net-_SC2-Pad1_ Din vob vob sky130_fd_pr__nfet_01v8		
SC5  Net-_SC2-Pad1_ Din_bar voa voa sky130_fd_pr__nfet_01v8		
SC1  vob Din_bar Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__nfet_01v8		
SC6  voa Din Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__nfet_01v8		
SC4  Net-_SC1-Pad3_ Net-_SC4-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC8  Net-_SC10-Pad1_ voa Net-_SC11-Pad3_ Net-_SC11-Pad3_ sky130_fd_pr__nfet_01v8		
SC11  Net-_SC11-Pad1_ Vocm Net-_SC11-Pad3_ Net-_SC11-Pad3_ sky130_fd_pr__nfet_01v8		
SC14  Net-_SC11-Pad1_ Vocm Net-_SC14-Pad3_ Net-_SC14-Pad3_ sky130_fd_pr__nfet_01v8		
SC16  Net-_SC10-Pad1_ vob Net-_SC14-Pad3_ Net-_SC14-Pad3_ sky130_fd_pr__nfet_01v8		
SC9  Net-_SC4-Pad2_ Net-_SC4-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC12  Net-_SC11-Pad3_ Vbias GND GND sky130_fd_pr__nfet_01v8		
SC15  Net-_SC14-Pad3_ Vbias GND GND sky130_fd_pr__nfet_01v8		
vdd1  vdd GND DC		
U1  Din plot_v1		
U2  Din_bar plot_v1		
U3  vob plot_v1		
U4  voa plot_v1		
v1  Din GND pulse		
v2  Din_bar GND pulse		
U5  Vocm IC		
scmode1  SKY130mode		
vbias1  Vbias GND DC		

.end
