* c:\users\91766\desktop\sky130\lvdi\lvdi\lvdi.cir

.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
* u5  vocm ic
.ic v(vocm)=0.9
xsc3 net-_sc2-pad1_ net-_sc11-pad1_ vdd vdd sky130_fd_pr__pfet_01v8 
xsc7 net-_sc4-pad2_ net-_sc10-pad1_ vdd vdd sky130_fd_pr__pfet_01v8 
xsc10 net-_sc10-pad1_ net-_sc10-pad1_ vdd vdd sky130_fd_pr__pfet_01v8 
xsc13 net-_sc11-pad1_ net-_sc11-pad1_ vdd vdd sky130_fd_pr__pfet_01v8 
xsc2 net-_sc2-pad1_ din vob vob sky130_fd_pr__nfet_01v8 
xsc5 net-_sc2-pad1_ din_bar voa voa sky130_fd_pr__nfet_01v8 
xsc1 vob din_bar net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__nfet_01v8 
xsc6 voa din net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__nfet_01v8 
xsc4 net-_sc1-pad3_ net-_sc4-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc8 net-_sc10-pad1_ voa net-_sc11-pad3_ net-_sc11-pad3_ sky130_fd_pr__nfet_01v8 
xsc11 net-_sc11-pad1_ vocm net-_sc11-pad3_ net-_sc11-pad3_ sky130_fd_pr__nfet_01v8 
xsc14 net-_sc11-pad1_ vocm net-_sc14-pad3_ net-_sc14-pad3_ sky130_fd_pr__nfet_01v8 
xsc16 net-_sc10-pad1_ vob net-_sc14-pad3_ net-_sc14-pad3_ sky130_fd_pr__nfet_01v8 
xsc9 net-_sc4-pad2_ net-_sc4-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc12 net-_sc11-pad3_ vbias gnd gnd sky130_fd_pr__nfet_01v8 
xsc15 net-_sc14-pad3_ vbias gnd gnd sky130_fd_pr__nfet_01v8 
vdd1 vdd gnd  dc 1.8
* u1  din plot_v1
* u2  din_bar plot_v1
* u3  vob plot_v1
* u4  voa plot_v1
v1  din gnd pulse(0 1.8 0.1n 0.1n 0.1n 20n 40n)
v2  din_bar gnd pulse(1.8 0 0.1n 0.1n 0.1n 20n 40n)
* u5  vocm ic
* s c m o d e
vbias1 vbias gnd  dc 0.6
.tran 0.1e-09 300e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(din)
plot v(din_bar)
plot v(vob)
plot v(voa)
.endc
.end
