* c:\users\abhinav\dropbox\pc\desktop\sky130\lvdi\lvdi\lvdi.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
* u5  vocm ic
.ic v(vocm)=2.5
xsc3 net-_sc2-pad1_ net-_sc11-pad1_ vdd vdd sky130_fd_pr__pfet_01v8 
xsc7 net-_sc4-pad2_ net-_sc10-pad1_ vdd vdd sky130_fd_pr__pfet_01v8 
xsc10 net-_sc10-pad1_ net-_sc10-pad1_ vdd vdd sky130_fd_pr__pfet_01v8 
xsc13 net-_sc11-pad1_ net-_sc11-pad1_ vdd vdd sky130_fd_pr__pfet_01v8 
xsc2 net-_sc2-pad1_ net-_sc2-pad2_ vob vob sky130_fd_pr__nfet_01v8 
xsc5 net-_sc2-pad1_ ? voa voa sky130_fd_pr__nfet_01v8 
xsc1 vob net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__nfet_01v8 
xsc6 voa ? net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__nfet_01v8 
xsc4 net-_sc1-pad3_ net-_sc4-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc8 net-_sc10-pad1_ voa net-_sc11-pad3_ net-_sc11-pad3_ sky130_fd_pr__nfet_01v8 
xsc11 net-_sc11-pad1_ vocm net-_sc11-pad3_ net-_sc11-pad3_ sky130_fd_pr__nfet_01v8 
xsc14 net-_sc11-pad1_ vocm net-_sc14-pad3_ net-_sc14-pad3_ sky130_fd_pr__nfet_01v8 
xsc16 net-_sc10-pad1_ vob net-_sc14-pad3_ net-_sc14-pad3_ sky130_fd_pr__nfet_01v8 
xsc9 net-_sc4-pad2_ net-_sc4-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc12 net-_sc11-pad3_ vbias gnd gnd sky130_fd_pr__nfet_01v8 
xsc15 net-_sc14-pad3_ vbias gnd gnd sky130_fd_pr__nfet_01v8 
v1 vdd gnd  dc 5
* u1  net-_sc2-pad2_ plot_v1
* u2  net-_sc1-pad2_ plot_db
* u3  vob plot_db
* u4  voa plot_db
v2  net-_sc2-pad2_ gnd pulse(0 5 0.1n 0.1n 0.1n 20n 40n)
v3  net-_sc1-pad2_ gnd pulse(0 5 0.1n 0.1n 0.1n 20n 40n)
v4  vbias gnd pulse(0 5 0.1n 0.1n 0.1n 20n 40n)
* u5  vocm ic
* s c m o d e
.tran 0.1e-09 300e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(net-_sc2-pad2_)
plot db(net-_sc1-pad2_)
plot db(vob)
plot db(voa)
.endc
.end
