* Subcircuit LVDR
.subckt LVDR /vdd /din /din_bar /vbias /voa /vob /vocm 
* c:\fossee\esim\library\subcircuitlibrary\lvdr\lvdr.cir
xsc3 net-_sc2-pad1_ net-_sc11-pad1_ /vdd /vdd sky130_fd_pr__pfet_01v8
xsc7 net-_sc4-pad2_ net-_sc10-pad1_ /vdd /vdd sky130_fd_pr__pfet_01v8
xsc10 net-_sc10-pad1_ net-_sc10-pad1_ /vdd /vdd sky130_fd_pr__pfet_01v8
xsc13 net-_sc11-pad1_ net-_sc11-pad1_ /vdd /vdd sky130_fd_pr__pfet_01v8
xsc2 net-_sc2-pad1_ /din /vob /vob sky130_fd_pr__nfet_01v8
xsc5 net-_sc2-pad1_ /din_bar /voa /voa sky130_fd_pr__nfet_01v8
xsc1 /vob /din_bar net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__nfet_01v8
xsc6 /voa /din net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__nfet_01v8
xsc4 net-_sc1-pad3_ net-_sc4-pad2_ gnd gnd sky130_fd_pr__nfet_01v8
xsc8 net-_sc10-pad1_ /voa net-_sc11-pad3_ net-_sc11-pad3_ sky130_fd_pr__nfet_01v8
xsc11 net-_sc11-pad1_ /vocm net-_sc11-pad3_ net-_sc11-pad3_ sky130_fd_pr__nfet_01v8
xsc14 net-_sc11-pad1_ /vocm net-_sc14-pad3_ net-_sc14-pad3_ sky130_fd_pr__nfet_01v8
xsc16 net-_sc10-pad1_ /vob net-_sc14-pad3_ net-_sc14-pad3_ sky130_fd_pr__nfet_01v8
xsc9 net-_sc4-pad2_ net-_sc4-pad2_ gnd gnd sky130_fd_pr__nfet_01v8
xsc12 net-_sc11-pad3_ /vbias gnd gnd sky130_fd_pr__nfet_01v8
xsc15 net-_sc14-pad3_ /vbias gnd gnd sky130_fd_pr__nfet_01v8
* s c m o d e
* Control Statements

.ends LVDR