* c:\users\91766\desktop\sky130\lvdr_test\lvdr_test.cir

.include LVDR.sub
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
* u6  vocm ic
.ic v(vocm)=0.9
v1  din gnd pulse(0 1.8 0.1n 0.1n 0.1n 20n 40n)
v2  din_bar gnd pulse(1.8 0 0.1n 0.1n 0.1n 20n 40n)
vdd1 vdd gnd  dc 1.8
vbias1 vbias gnd  dc 0.6
* u4  vob plot_v1
* u5  vocm plot_v1
* u3  voa plot_v1
* u1  din plot_v1
* u2  din_bar plot_v1
* s c m o d e
* u6  vocm ic
x1 vdd din din_bar vbias voa vob vocm LVDR
.tran 0.1e-09 300e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vocm)
plot v(din) v(din_bar)+2 v(vob)+4 v(voa)+6 
.endc
.end
