* c:\fossee\esim\library\subcircuitlibrary\lvdr\lvdr.cir

.lib "" 
.include ""
xsc3 net-_sc2-pad1_ net-_sc11-pad1_ /vdd /vdd sky130_fd_pr__pfet_01v8 
xsc7 net-_sc4-pad2_ net-_sc10-pad1_ /vdd /vdd sky130_fd_pr__pfet_01v8 
xsc10 net-_sc10-pad1_ net-_sc10-pad1_ /vdd /vdd sky130_fd_pr__pfet_01v8 
xsc13 net-_sc11-pad1_ net-_sc11-pad1_ /vdd /vdd sky130_fd_pr__pfet_01v8 
xsc2 net-_sc2-pad1_ /din /vob /vob sky130_fd_pr__nfet_01v8 
xsc5 net-_sc2-pad1_ /din_bar /voa /voa sky130_fd_pr__nfet_01v8 
xsc1 /vob /din_bar net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__nfet_01v8 
xsc6 /voa /din net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__nfet_01v8 
xsc4 net-_sc1-pad3_ net-_sc4-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc8 net-_sc10-pad1_ /voa net-_sc11-pad3_ net-_sc11-pad3_ sky130_fd_pr__nfet_01v8 
xsc11 net-_sc11-pad1_ /vocm net-_sc11-pad3_ net-_sc11-pad3_ sky130_fd_pr__nfet_01v8 
xsc14 net-_sc11-pad1_ /vocm net-_sc14-pad3_ net-_sc14-pad3_ sky130_fd_pr__nfet_01v8 
xsc16 net-_sc10-pad1_ /vob net-_sc14-pad3_ net-_sc14-pad3_ sky130_fd_pr__nfet_01v8 
xsc9 net-_sc4-pad2_ net-_sc4-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc12 net-_sc11-pad3_ /vbias gnd gnd sky130_fd_pr__nfet_01v8 
xsc15 net-_sc14-pad3_ /vbias gnd gnd sky130_fd_pr__nfet_01v8 
* s c m o d e
* u1  /vdd /din /din_bar /vbias /voa /vob /vocm port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
