* c:\users\91766\desktop\sky130\serilizer\serilizer.cir

.include LVDR.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
* u10  net-_u10-pad1_ net-_u10-pad2_ din din_bar dac_bridge_2
* u7  net-_u2-pad8_ net-_u10-pad1_ net-_u10-pad2_ buffer
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ mux4to1
* u5  s1 s0 en0 net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ adc_bridge_3
* u4  data3 data2 data1 data0 net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ adc_bridge_4
v1  data3 gnd pulse(0 1.8 0 0.1n 0.1n 40n 80n)
v3  data1 gnd pulse(0 1.8 0 0.1n 0.1n 10n 20n)
v5  s1 gnd pulse(0 1.8 0 0.1n 0.1n 160n 320n)
v7  en0 gnd pulse(0 1.8 0 0.1n 0.1n 40n 80n)
v6  s0 gnd pulse(1.8 0 0 0.1n 0.1n 2n 320n)
* u3  data3 plot_v1
* u1  data1 plot_v1
* u6  s1 plot_v1
* u8  s0 plot_v1
* u9  en0 plot_v1
* u11  din plot_v1
* u12  din_bar plot_v1
x1 vdd din din_bar vbias voa vob vocm LVDR
vdd1 vdd gnd  dc 0
vbais1 vbias gnd  dc 1.8
* u15  voa plot_v1
* u17  vocm plot_v1
* u16  vob plot_v1
v2  data2 gnd pulse(0 0.1n 0.1n 10n 20n 0 1.8)
* u13  data2 plot_v1
v4  data0 gnd pulse(0 1.8 0 0.1n 0.1n 80n 160n)
* u14  data0 plot_v1
* s c m o d e
a1 [net-_u10-pad1_ net-_u10-pad2_ ] [din din_bar ] u10
a2 [net-_u2-pad8_ ] [net-_u10-pad1_ ] [net-_u10-pad2_ ] u7
a3 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ ] [net-_u2-pad5_ net-_u2-pad6_ ] [net-_u2-pad7_ ] [net-_u2-pad8_ ] u2
a4 [s1 s0 en0 ] [net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ ] u5
a5 [data3 data2 data1 data0 ] [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ ] u4
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u10 dac_bridge(out_low=0.0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             buffer, NgSpice Name: buffer
.model u7 buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             mux4to1, NgSpice Name: mux4to1
.model u2 mux4to1(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=0 in_high=1.8 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=0 in_high=1.8 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-09 320e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(data3)
plot v(data1)
plot v(s1)
plot v(s0)
plot v(en0)
plot v(din)
plot v(din_bar)
plot v(voa)
plot v(vocm)
plot v(vob)
plot v(data2)
plot v(data0)
.endc
.end
